US05608110
A. Preparation of 3-methyl-1-phthalimido-2-butene
Phthalimide, potassium salt (20.5 g, 0.11 mol) was suspended in dry DMF (100 mL). To the suspension was added 1-bromo-3-methyl-2-butene (14.8 g, 0.1 mol) with stirring. The reaction mixture was stirred under N2 at 45° C. for 24 h. TLC (silica gel, 30% ethyl acetate-hexane) showed one major UV-visible spot with Rf =0.65. DMF was removed under vacuum and the residue was taken up with water (200 mL) and extracted with ethyl acetate (3×150 mL). The extracts were combined and dried over Na2SO4. Evaporation of solvent gave the title product as a white solid. Yield: 21.0 g (98%). mp: 95°-97° C. MS: 233 (M+NH4)+, 216 (M+H)+.

reactant | Phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | potassium | 0.11 mol, 20.5 g | [K] | K
reactant | 1-bromo-3-methyl-2-butene | 0.1 mol, 14.8 g | BrCC=C(C)C | C5H9Br
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-methyl-1-phthalimido-2-butene | CC(=CCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H13NO2
